US03979513
4-Methoxy-10-oxo-9,10-dihydroanthracene-9,9-diacetic acid, whose preparation is described in Example 2, (5.2 g.) in n-butanol (300 ml.) is heated under reflux and sodium (10 g.) is gradually added in small pieces to the boiling solution. When all the sodium has dissolved, the solution is allowed to cool and is then extracted three times with water. The aqueous extracts are combined, washed with ether and acidified with concentrated hydrochloric acid. The resulting precipitate is extracted into ether, the ether is washed with water, dried (MgSO4) and evaporated to give a solid which is recrystallised from ethyl acetate-petroleum ether (b.p. 60°-80°C.) to give 4-methoxy-9,10-dihydroanthracene-9,9-diacetic acid m.p. 150°-153°C.

reactant | 4-Methoxy-10-oxo-9,10-dihydroanthracene-9,9-diacetic acid | COC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)(CC(=O)O)CC(=O)O | C19H16O6
reactant | sodium | 10 g | [Na] | Na
solvent | n-butanol | 300 ml | C(CCC)O | C4H10O
product | 4-methoxy-9,10-dihydroanthracene-9,9-diacetic acid | COC1=CC=CC=2C(C3=CC=CC=C3CC12)(CC(=O)O)CC(=O)O | C19H18O5
